US04997847
8-(5-Chloro-2-thienylsulphonamido)octanoic Acid
8-Aminocaprylic acid (1.0 g, 0.006 mole) was treated with 5-chloro-2-thiophene sulphonyl chloride (1.37 g, 0.0063 mole) according to the method described in Example 4 to give the title compound after recrystallisation from isopropanol/water (1.39 g, m.p. 108°-9° C.).

reactant | 8-Aminocaprylic acid | 0.006 mole, 1.0 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | 5-chloro-2-thiophene sulphonyl chloride | 0.0063 mole, 1.37 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
product | 8-(5-Chloro-2-thienylsulphonamido)octanoic Acid | ClC1=CC=C(S1)S(=O)(=O)NCCCCCCCC(=O)O | C12H18ClNO4S2
